US04551279
Preparation of 2-amino-3-methylbenzoic acid
A solution of 3-methyl-2-nitrobenzoic acid (7 g) in ethanol (250 ml) was reduced with hydrogen gas at 2 psi over 5% palladium/carbon (0.7 g) catalyst. After hydrogen uptake ceased, the mixture was filtered and solvent removed by a rotary evaporator to give a white solid. Purification was by recrystallization from ethyl ether-hexane, m.p. ca. 170°-173° C.

reactant | 3-methyl-2-nitrobenzoic acid | 7 g | CC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.7 g | [Pd] | Pd
product | 2-amino-3-methylbenzoic acid | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
